US08217064B2
To a stirred solution of ethyl 2-(3-(benzo[d]thiazol-6-yl)-5-chloro-4-(cyclopropylmethoxy)phenyl)-4-methylpentanoate (0.1 g, 0.218 mmol) in a mixture of THF (10 mL), methanol (10 mL) and water (5 mL) was added LiOH.H2O (45 mg, 1.090 mmol) at room temperature and the mixture was stirred at RT for 2 h. After complete consumption of starting material as monitored by TLC, the reaction mixture was diluted with water (10 mL) and acidified using 1 N HCl at 0° C. The aqueous layer was extracted with EtOAc (2×20 mL); combined organic extracts were washed with water (10 mL), brine (20 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The crude material was purified by column chromatography to afford 2-(3-(benzo[d]thiazol-6-yl)-5-chloro-4-(cyclopropylmethoxy)phenyl)-4-methylpentanoic acid (39 mg) as an off white solid. 1HNMR (500 MHz) (CDCl3): δ (ppm) 9.05 (s, 1H), 8.2 (m, 2H), 7.73 (m, 1H), 7.40 (s, 1H), 7.30 (s, 1H), 3.63 (t, 1H), 3.40 (d, 2H), 1.99 (m, 1H), 1.65 (m, 1H), 1.55 (m, 1H), 0.93 (m, 7H), 0.38 (d, 2H), −0.5 (d, 2H).

reactant | ethyl 2-(3-(benzo[d]thiazol-6-yl)-5-chloro-4-(cyclopropylmethoxy)phenyl)-4-methylpentanoate | 0.218 mmol, 0.1 g | S1C=NC2=C1C=C(C=C2)C=2C=C(C=C(C2OCC2CC2)Cl)C(C(=O)OCC)CC(C)C | C25H28ClNO3S
reactant | methanol | 10 mL | CO | CH4O
reactant | water | 5 mL | O | H2O
reactant | LiOH.H2O | 1.090 mmol, 45 mg | O[Li].O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(3-(benzo[d]thiazol-6-yl)-5-chloro-4-(cyclopropylmethoxy)phenyl)-4-methylpentanoic acid | 39 mg | S1C=NC2=C1C=C(C=C2)C=2C=C(C=C(C2OCC2CC2)Cl)C(C(=O)O)CC(C)C | C23H24ClNO3S
